US08686193B2
DE 29 52 719 likewise describes the iron chloride-catalyzed Friedel-Crafts alkylation of 2-methyl-3-phenylpropanol. In cyclohexane or dichloroethane as solvent, a yield of 84-86% of 2-methyl-3-(4-tert-butylphenyl)propanol was obtained. The formation of the m-isomeric compound (2-methyl-3-(3-tert-butylphenyl)propanol), was not demonstrated. A disadvantage of the described Friedel-Crafts alkylations is the small amount of the m-isomeric compound formed (m:p ratio is max. 1:5).

reactant | 2-methyl-3-phenylpropanol | CC(CO)CC1=CC=CC=C1 | C10H14O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
catalyst | iron chloride | [Fe](Cl)Cl
product | 2-methyl-3-(4-tert-butylphenyl)propanol | yield of 84-86% | CC(CO)CC1=CC=C(C=C1)C(C)(C)C | C14H22O
